### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/GroupCohomology/Functoriality): the degree 1 part of the inflation-restriction exact sequence

### PR DESCRIPTION
**Pull request by 101damnations**
Given a `G`-representation `A` and a normal subgroup `S` of `G`, this PR defines the inflation-restriction short complex 
`H¹(G ⧸ S, A^S) ⟶ H¹(G, A) ⟶ H¹(S, A)` induced by the natural inclusions `S → G`, `A^S → A` and projection `G → G / S`. We proves it's exact, and that the lefthand map is a monomorphism.

---

- [x] depends on: #22651 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean [hunk 1]
```diff
@@ -306,6 +321,87 @@ lemma map_comp_isoH1_hom :
...
+    apply Subtype.ext
+    simp [← QuotientGroup.mk_mul, h1 g h, sub_add_eq_add_sub, add_assoc]
+  · symm
+    simp only [ModuleCat.hom_ofHom, oneCocycles.val_eq_coe, Submodule.mkQ_apply,
+      H1π_comp_H1Map_apply, Submodule.Quotient.eq]
+    use y
+    refine Subtype.ext <| funext fun g => ?_
+    simp only [moduleCatToCycles_apply_coe, AddSubgroupClass.coe_sub]
+    simp [shortComplexH1, mapOneCocycles_comp_subtype_apply (A := A.quotientToInvariants S)
+      (QuotientGroup.mk' S), oneCocycles.coe_mk (A := A.quotientToInvariants S), ← sub_sub]
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean:401]: I tried to get this down to one simp call and failed -- do you know what's going on?

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and send it back to bors?
bors r-
bors d+
